US08497381B2
Step 2: [4-Fluoro-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid
(4S,5R)-4-Methyl-5-phenyl-3-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-oxazolidin-2-one (0.080 g, 0.17 mmol), 5-bromo-2-fluorophenylacetic acid (0.061 g, 0.26 mmol), potassium carbonate (0.084 g, 0.61 mmol), and tetrakis(triphenylphosphine)palladium (0) (0.021 g, 0.02 mmol) were combined in DME:H2O (2:1; 3 mL), and the mixture was purged with N2 for 5 minutes. The reaction was stirred under N2 at 90° C. overnight. After work-up with EtOAc and brine, the crude material was purified by silica gel chromatography (0-5% MeOH in CH2Cl2) to give the title compound. M+H is 488.

reactant | (4S,5R)-4-Methyl-5-phenyl-3-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-oxazolidin-2-one | 0.17 mmol, 0.080 g | C[C@@H]1N(C(O[C@@H]1C1=CC=CC=C1)=O)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C24H27BF3NO4
reactant | 5-bromo-2-fluorophenylacetic acid | 0.26 mmol, 0.061 g | BrC=1C=CC(=C(C1)CC(=O)O)F | C8H6BrFO2
reactant | potassium carbonate | 0.61 mmol, 0.084 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME H2O | 3 mL | COCCOC.O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.02 mmol, 0.021 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [4-Fluoro-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | FC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)CC(=O)O | C26H21F4NO4
